US07067506B2
Step 2: 4-[(Benzyl-methyl-amino)-methyl]-2-methoxy-phenylamine.
Nickel boride Reduction General Method: To a stirred solution of nickel chloride hexahydrate (820 mg, 3.45 mmol) in 12 mL EtOH and 3 mL THF, at 0° C., NaBH4 (130 mg, 3.45 mmol) was added. The resulting black suspension was stirred at 0° C. while N-benzyl-(3-methoxy-4-nitro-benzyl)-methyl-amine was added as a solution in 5 mL THF. After several minutes, 260 mg of NaBH4 was added in several portions over 10 minutes, and the reaction mixture was subsequently allowed to warm to room temperature. After 2 h, TLC indicated complete conversion to a new, more polar product. At this point, 1.5 mL of 5% NH4OH was added and the reaction was stirred for about 10 min, until the black solids achieved a granular consistency. The reaction was filtered through a glass fiber filter, rinsing with THF. The clear colorless filtrate was concentrated to about ¼ volume, diluted with 30 mL water and extracted with EtOAc (3×30 mL). The combined extracts were washed with brine, dried over MgSO4 and filtered through a short plug of silica and concentrated in vacuo to afford 575 mg (65%) of the desired product as an off-white solid. 1H NMR (400 MHz, CDCl3): δ7.2-7.4 (m, 5H), 7.85 (s, 1H), 6.85 (s, 1H), 6.74 (d, J=8.2 Hz, 1H), 6.66 (d, J=8.2 Hz, 1H), 3.87 (s, 3H), 3.73 (br. s, 2H) 3.49 (s, 2H), 3.45 (s, 2H), 2.18 (s, 3H). MS (APCI-pos)M+1=256.9

reactant | NaBH4 | 3.45 mmol, 130 mg | [BH4-].[Na+]
reactant | N-benzyl-(3-methoxy-4-nitro-benzyl)-methyl-amine | C(C1=CC=CC=C1)N(C)CC1=CC(=C(C=C1)[N+](=O)[O-])OC | C16H18N2O3
reactant | NaBH4 | 260 mg | [BH4-].[Na+]
reactant | NH4OH | 1.5 mL | [NH4+].[OH-]
solvent | EtOH | 12 mL | CCO | C2H6O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Nickel boride | B#[Ni]
catalyst | nickel chloride hexahydrate | 3.45 mmol, 820 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | 4-[(Benzyl-methyl-amino)-methyl]-2-methoxy-phenylamine | 575 mg, 65% | C(C1=CC=CC=C1)N(C)CC1=CC(=C(C=C1)N)OC | C16H20N2O
